US05284852
2-Butyl-6-(1-methylethenyl)-4(1H)-quinazolinone
To a suspension of 3.66 g of methyltriphenylphosphonium bromide in 30 ml of dry tetrahydrofuran, cooled to -78° C., is added dropwise 5.9 ml of a 1.73M solution of n-butyllithium in hexanes. Following complete addition, the reaction mixture is allowed to warm to room temperature and stirred for 15 minutes, until all the phosphonium bromide is dissolved. The reaction mixture is then recooled to -78° C. and a suspension of 6-acetyl-2-butyl-4(1H)-quinazolinone in 15 ml of dry tetrahydrofuran is added. The reaction is allowed to warm to room temperature and stirred for 24 hours followed by quenching with saturated ammonium chloride solution. After diluting with 10 ml of water, the aqueous layer is extracted with chloroform and the combined organics dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica gel, eluting with 1:2 ethyl acetate-hexanes to give 0.23 g of the desired product as a white solid. CI MASS SPEC 243(MH+ ).

reactant | n-butyllithium | C(CCC)[Li]
reactant | phosphonium bromide | [Br-].[PH4+]
reactant | 6-acetyl-2-butyl-4(1H)-quinazolinone | C(C)(=O)C=1C=C2C(N=C(NC2=CC1)CCCC)=O | C14H16N2O2
catalyst | methyltriphenylphosphonium bromide | 3.66 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-(1-methylethenyl)-4(1H)-quinazolinone | 0.23 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(=C)C | C15H18N2O
